US06211234B1
Sodium hydride (0.52 g, 60% dispersion in mineral oil) is added portionwise over 30 minutes to a solution of 2,4-dihydroxy-6-fluorobenzaldehyde (2 g) in DMF (50 mL) at 0° C. The mixture is stirred at 0° C. for 30 minutes then a solution of 3-chloromethylthiophene (1.72 g) in DMF (50 mL) is added and the mixtured stirred at 60° C. for 16 hours. The reaction is concentrated in vacuo and the residue partitioned between diethyl ether (50 mL) and water (50 mL). The aqueous phase is extracted four times with diethyl ether (50 mL) and the combined organic phases washed with brine (50 mL). The organic phase is dried over magnesium sulphate, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica eluting with a mixture of ethyl acetate and pentane (1:4 v/v). Fractions homogeneous in the required product are combined and evaporated to give a pale yellow solid which is triturated with diisopropyl ether to give 6-fluoro-2-hydroxy-4-(3-thienylmethoxy)benzaldehyde (1.1 g) as a yellow solid.

reactant | Sodium hydride | 0.52 g | [H-].[Na+]
reactant | 2,4-dihydroxy-6-fluorobenzaldehyde | 2 g | OC1=C(C=O)C(=CC(=C1)O)F | C7H5FO3
reactant | 3-chloromethylthiophene | 1.72 g | ClCC1=CSC=C1 | C5H5ClS
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 6-fluoro-2-hydroxy-4-(3-thienylmethoxy)benzaldehyde | 1.1 g | FC1=CC(=CC(=C1C=O)O)OCC1=CSC=C1 | C12H9FO3S
